US05834506
Dimethyl-sulfamic acid 5-tert-butyl-4-{4-hydroxy-6,6-bis-[2-(4-hydroxy-phenyl)-ethyl]-2-oxo-5,6-dihydro-2H-pyran-3-ylsulfanyl}-2-methyl-phenyl ester
To a round bottom flask equipped with a magnetic stirrer were added toluene-4-thiosulfonic acid S-(2-tert-butyl-4-dimethylsulfamoyloxy-5-methyl-phenyl) ester (prepared in Example UUU; 0.128 g, 0.280 mmol), 4-hydroxy-6,6-bis-[2-(4-hydroxy-phenyl)-ethyl]-5,6-dihydro-pyran-2-one (prepared in Example PP; 0.100 g, 0.280 mmol), K2CO3 (0.154 g, 1.12 mmol), and DMF (8 mL), as described in General Method 9. The slurry was stirred at room temperature overnight. After standard work-up, the residue was submitted to flash chromatography (97% CHCl3 :3% MeOH) to yield the title compound, m.p. 139° C. 1H NMR (CDCl3) δ 1.53 (s, 9 H), 1.91 (s, 3 H), 2.11 (m, 4 H), 2.65 (m, 4 H), 2.86 (s, 2 H), 2.98 (s, 6 H), 4.80 (br s, 2 H), 6.72 (s, 1 H), 6.73 (d, 4 H), 6.98 (d, 4 H), 7.27 (s, 1 H).

reactant | toluene-4-thiosulfonic acid S-(2-tert-butyl-4-dimethylsulfamoyloxy-5-methyl-phenyl) ester | 0.280 mmol, 0.128 g | C(C)(C)(C)C1=C(C=C(C(=C1)OS(N(C)C)(=O)=O)C)SS(=O)(=O)C1=CC=C(C=C1)C | C20H27NO5S3
reactant | 4-hydroxy-6,6-bis-[2-(4-hydroxy-phenyl)-ethyl]-5,6-dihydro-pyran-2-one | 0.280 mmol, 0.100 g | OC1=CC(OC(C1)(CCC1=CC=C(C=C1)O)CCC1=CC=C(C=C1)O)=O | C21H22O5
reactant | K2CO3 | 1.12 mmol, 0.154 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | Dimethyl-sulfamic acid 5-tert-butyl-4-{4-hydroxy-6,6-bis-[2-(4-hydroxy-phenyl)-ethyl]-2-oxo-5,6-dihydro-2H-pyran-3-ylsulfanyl}-2-methyl-phenyl ester | C(C)(C)(C)C=1C(=CC(=C(C1)OS(N(C)C)(=O)=O)C)SC=1C(OC(CC1O)(CCC1=CC=C(C=C1)O)CCC1=CC=C(C=C1)O)=O | C34H41NO8S2
